US05070087
2-(Acetyloxy)-1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone
A mixture of 31.5 g (0.14 mol) of 2-(acetyloxy)-1-(4-hydroxy-3-methoxyphenyl)ethanone, 44.1 g (0.28 mole) of 1-bromo-3-chloropropane and 58 g (0.42 mole) of anhydrous potassium carbonate in 1 liter of acetone was heated at reflux for 16 hr. The mixture was cooled, filtered, and the filtrate concentrated to give a solid residue. The solid was triturated with petroleum ether (30°-60° C.), collected by filtration and dried to yield 38.7 g (92%) of title compound as a pale-yellow solid. An analytical sample, mp 93°-96° C., was prepared from 2-propanol.

reactant | 2-(acetyloxy)-1-(4-hydroxy-3-methoxyphenyl)ethanone | 0.14 mol, 31.5 g | C(C)(=O)OCC(=O)C1=CC(=C(C=C1)O)OC | C11H12O5
reactant | 1-bromo-3-chloropropane | 0.28 mole, 44.1 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.42 mole, 58 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1 liter | CC(=O)C | C3H6O
product | 2-(Acetyloxy)-1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone | 38.7 g, 92% | C(C)(=O)OCC(=O)C1=CC(=C(C=C1)OCCCCl)OC | C14H17ClO5
